US04970218
2-Methyl-N-(4-pyridinyl)-1H-indol-1-amine
The title compound was prepared from 2-methyl-1H-indol-1-amine and 4-chloropyridine hydrochloride at 120° C. for 30 minutes in substantially the same manner as in Example 1, m.p. 75°-78° C.

reactant | 2-methyl-1H-indol-1-amine | CC=1N(C2=CC=CC=C2C1)N | C9H10N2
reactant | 4-chloropyridine hydrochloride | Cl.ClC1=CC=NC=C1
product | 2-Methyl-N-(4-pyridinyl)-1H-indol-1-amine | CC=1N(C2=CC=CC=C2C1)NC1=CC=NC=C1 | C14H13N3
